US07951836B2
a) rac-3-Hydroxy-3-(4-trifluoromethyl-phenyl)-pyrrolidine-1-carboxylic acid ethyl ester
364 mg magnesium was suspended in 2 ml ether, under nitrogen. 150 ul 4-bromobenzo-trifluoride was added and then a solution of 12.6 mmol 4-bromobenzotrifluoride in 1.5 ml ether was added dropwise over a period of 10 minutes at room temperature. The mixture came mildly exothermic and turned red-brown while the grignard reagent formed during 1.5 h of stirring. The mixture was cooled down to 0° C. A solution of 12.5 mmol 1-N-ethoxycarbonyl-3-pyrrolidone in 14 ml ether was added dropwise. The reaction mixture was allowed to come to room temperature and stirred for 2 h30. 20% NH4Cl was added dropwise, at 0° C., to quench the reaction. The mixture was allowed to warm to room temperature. The aqueous layer was extracted 3 times with ether. The combined organic phases were washed with water and brine, dried over Na2SO4 and evaporated. The residue was purified on silica gel (eluent: heptane-ethyl acetate 1/1) to yield the title compound (61%) as a yellow solid. MS (m/e): 362.2 ([M+59], 100%).

reactant | magnesium | 364 mg | [Mg] | Mg
reactant | 4-bromobenzo-trifluoride | 150 ul | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | 4-bromobenzotrifluoride | 12.6 mmol | BrC1=CC=C(C=C1)C(F)(F)F | C7H4BrF3
reactant | 1-N-ethoxycarbonyl-3-pyrrolidone | 12.5 mmol | C(C)OC(=O)N1CC(CC1)=O | C7H11NO3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | ether | 2 ml | CCOCC | C4H10O
solvent | ether | 1.5 ml | CCOCC | C4H10O
solvent | ether | 14 ml | CCOCC | C4H10O
product | rac-3-Hydroxy-3-(4-trifluoromethyl-phenyl)-pyrrolidine-1-carboxylic acid ethyl ester | 61% | C(C)OC(=O)N1CC(CC1)(C1=CC=C(C=C1)C(F)(F)F)O | C14H16F3NO3
